data/oMe_Silver.jsonl
{"reaction_id": "NR-230_1-C(=O)N(C)C_2-CCCC","level": "hard","name": "Pummerer Rearrangement","reactants_smiles": ["O=C(C)OC(=O)C","S(=O)(CC(=O)N(C)C)(CCCC)"],"products_smiles": ["O=C(C)OC(C(=O)N(C)C)S(CCCC)"],"conditions": "Acetic anhydride","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[S+](OC([O-])(C)OC(=O)C)(CC(=O)N(C)C)(CCCC)","step_weight": 0,"rationale": "Acetic anhydride acylates the sulfoxide oxygen due to its high electrophilicity, generating an oxysulfonium ion stabilized by resonance with sulfur, making the α-protons more acidic."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S+](OC(=[O])(C))(CC(=O)N(C)C)(CCCC)","step_weight": 0,"rationale": "Elimination of acetate occurs because it is a good leaving group, forming a sulfonium species with an electron-deficient α-carbon primed for rearrangement."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[S+](=CC(=O)N(C)C)(CCCC)","step_weight": 0,"rationale": "The α-carbon adjacent to the positively charged sulfur becomes electrophilic, enabling intramolecular rearrangement via C–S bond migration to stabilize the cation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=C(C)OC(C(=O)N(C)C)S(CCCC)","step_weight": 0,"rationale": "Acetate attacks the α-carbon, displacing the sulfonium charge and forming the α-acyloxy sulfide, driven by the nucleophilicity of acetate and product stability."}],"description": "In acetic anhydride, the sulfoxide oxygen is activated toward rearrangement by electrophilic acylation, forming an oxysulfonium intermediate. This facilitates α-proton removal and rearrangement to a stabilized cation, which is trapped by acetate to yield the α-acyloxy sulfide product."}
{"reaction_id": "NR-207_1-c1ccc(C(F)(F)F)cc1_2-C(C)(C)C_3-C1CCCCC1_4-c1cnccc1","level": "medium","name": "Oppenauer Oxidation","reactants_smiles": ["O=C(c1ccc(C(F)(F)F)cc1)(C(C)(C)C)","C(C1CCCCC1)(c1cnccc1)O"],"products_smiles": ["OC(c1ccc(C(F)(F)F)cc1)(C(C)(C)C).C(C1CCCCC1)(=O)c1cnccc1"],"conditions": "Al(Oi-Pr)3","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(C1CCCCC1)(c1cnccc1)[OH+][Al-](OC(C)C)(OC(C)C)OC(C)C","step_weight": 0,"rationale": "The alcohol oxygen donates a lone pair to the Lewis acidic aluminum center, increasing polarization of the O–H bond and aligning the substrate for subsequent hydride transfer."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(c1cnccc1)[O][Al](OC(C)C)OC(C)C","step_weight": 0,"rationale": "Proton transfer to an alkoxide ligand generates an aluminum-bound alkoxide, enhancing nucleophilicity at oxygen and stabilizing the complex for rearrangement."},{"step": 3,"type": "rearrangement","subtype": "hydride_shift","intermediate_smiles": "C(C1CCCCC1)(c1cnccc1)[O][Al-](OC(C)C)([O+]=C(c1ccc(C(F)(F)F)cc1)(C(C)(C)C))OC(C)C","step_weight": 0,"rationale": "Hydride shifts from the α-carbon of the coordinated alcohol to the electrophilic carbonyl carbon of the acceptor, driven by the stability of the resulting carbonyl and facilitated by aluminum coordination."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "OC(c1ccc(C(F)(F)F)cc1)(C(C)(C)C).C(C1CCCCC1)(=O)c1cnccc1","step_weight": 0,"rationale": "Product ketone and alcohol are released as aluminum–oxygen bonds are cleaved, favored by the stability of the neutral products and regeneration of the catalyst."}],"description": "In the Oppenauer oxidation, the aluminum isopropoxide catalyst coordinates to the alcohol, activating it for hydride transfer to a more electrophilic carbonyl acceptor. The reaction proceeds due to the thermodynamic drive toward forming a more stable carbonyl compound, with aluminum facilitating both activation and hydride migration."}
